US05545399
A solution of phloretin (1 g) in 80% ethanol (20 ml) containing 50 mg of 5% palladium on carbon is stirred under a hydrogen atmosphere. After 6 hrs the mixture is filtered, and the filtrate is concentrated under vacuo to give dihydrophloretin in about 90% yield.

reactant | phloretin | 1 g | OC1=CC=C(CCC(=O)C=2C(O)=CC(O)=CC2O)C=C1 | C15H14O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | dihydrophloretin | about 90% yield | OC1CC=C(CCC(=O)C=2C(O)=CC(O)=CC2O)C=C1 | C15H16O5
